Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Facial skin laxity with desire for rejuvenation.
 
Major Surgical or Invasive Procedure:
Rhytidectomy

 
History of Present Illness:
___ year old female with sagging facial skin here for a facelift.
 
Past Medical History:
ANEMIA                                                          
CONSTIPATION/SLOW TRANSIT                                       
OSTEOPENIA                                                      
PELVIC FLOOR DYSSYNERGY                                         
POTENTIAL FOR INFECTION                                         
HYPERTENSION                                                    
SEBORRHEIC KERATOSIS                                            
MIGRAINE HEADACHES                                              
HEADACHES                                                       
DEPRESSION                                                      
ANXIETY                                                         
PRE-DIABETES                                                    
H/O SKIN CANCERS               
 
Social History:
___
Family History:
no known family history.
 
Physical Exam:
98.6 128/56 86 13 96% on RA
 sips ////FOLEY ___ ///
.
Gen: Sleepy but arousable
Mental/psych: A+Ox3
Face: Symmetrical, no ecchymosis, no facial edema, gauze head
wrap in place. CN VII intact.
Heart: RRR
Lungs: CTAB
abd: Soft, NT
GU: Foley with clear yellow urine draining.
BLE: No edema noted, Pboots in place.

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a facelift.  The patient tolerated the 
procedure well. 
 .
 Neuro: Post-operatively, the patient received IV pain 
medication with good effect and adequate pain control. When 
tolerating oral intake, the patient was transitioned to oral 
pain medications. 
 .
 CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
 .
 Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 .
 GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake.  Her diet was advanced when appropriate, 
which was tolerated well. She was also started on a bowel 
regimen to encourage bowel movement. Foley was removed on POD#1. 
Intake and output were closely monitored. 
 .
 ID: Post-operatively, the patient was started on IV cefazolin, 
then switched to PO cefadroxil for discharge home. The patient's 
temperature was closely watched for signs of infection. 
 .
 Prophylaxis: The patient wore pneumoboots while in bed and was 
encouraged to get up and ambulate as early as possible. 
 .
 At the time of discharge on POD#1, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled. Face symmetric, no ecchymosis, No evidence of 
hematoma about face/neck, CN VII intact, gauze head wrap in 
place.

 
Medications on Admission:
Lisinopril 2.5 mg PO DAILY  
Sertraline 25 mg PO DAILY  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  cefaDROXil 500 mg oral BID  
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN pain  
5.  Lisinopril 2.5 mg PO DAILY  
6.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Facial skin laxity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* Please contact Dr. ___ any serious change in your 
symptoms, or any new symptoms that concern you.
 * Please resume all regular home medications and take any new 
meds as ordered.
 * Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
 .
 You may take a bath or shower, but do not get your incisions 
wet until instructed by Dr. ___.
 * Keep your dressings in place until your follow up appointment 
with Dr. ___
 * No strenuous activity until instructed by Dr. ___.
 * Finish all of your antibiotics
 * Please call Dr. ___ if you have any acute 
swelling in your neck or face
 * Sleep with head elevated to help with swelling
 * do not take any medicines such as Motrin, Aspirin, Advil or 
Ibuprofen etc
 .
 Return to the ER if:
 * If you are vomiting and cannot keep in fluids or your 
medications.
 * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.

 
Followup Instructions:
___